US07232822B2
1 L, two-necked, round-bottom-flask was fitted with a glass stopper and reflux condenser connected to a calcium tube. A solution of N-Fmoc-N′-methyl hydrazine (20 g, 75 mmol) in toluene (300 mL) was added. A solution of t-butylbromo acetate (22 g, 111 mmol) in toluene (50 mL) was added slowly. Cs2CO3 (49 g, 149 mmol) was added slowly. Nal (11 g, 74 mmol) was added slowly with vigorous stirring. The reaction mixture was stirred at reflux temperature over 1 day. The product mixture was filtered and extracted with EA (500 mL). The solution was dried over sodium sulfate and evaporated in vacuo. The product was purified by chromatography with hexane:EA=2:1 solution to give (N-Fmoc-N′-methyl-hydrazino)-acetic acid t-butyl ester (19.8 g, 70%).

reactant | N-Fmoc-N′-methyl hydrazine | 75 mmol, 20 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NNC | C16H16N2O2
reactant | Cs2CO3 | 149 mmol, 49 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Nal | 74 mmol, 11 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (N-Fmoc-N′-methyl-hydrazino)-acetic acid t-butyl ester | 19.8 g, 70% | C(C)(C)(C)OC(CN(NC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)=O | C22H26N2O4
